US08067136B2
10.72 g of 3-(2-propenyl)dihydro-2(3H)-furanone of interest were prepared in the same manner as in Preparation Example 2Z-5 except that 8.61 g (100.0 mmol) of γ-butyrolactone were used instead of β-propiolactone described in Preparation Example 2Z-5.

reactant | γ-butyrolactone | 100.0 mmol, 8.61 g | C1(CCCO1)=O | C4H6O2
reactant | β-propiolactone | C1(CCO1)=O | C3H4O2
product | 3-(2-propenyl)dihydro-2(3H)-furanone | 10.72 g | C(C=C)C1C(OCC1)=O | C7H10O2
